US08211908B2
To a solution of 0.29 g of (2-oxo-1,8-naphthyridin-1(2H)-yl)acetaldehyde in 10 mL of methylene chloride, 0.30 g of tert-butyl(piperidin-4-yl)carbamate and 87 μL of acetic acid were added, the mixture was stirred for 10 minutes, and to the reaction mixture, 0.48 g of sodium triacetoxyborohydride was then added and the mixture was stirred at room temperature for 4 hours. Thereto were added water, a saturated aqueous sodium hydrogen carbonate solution and chloroform, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, and the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=100:1 to obtain 0.27 g of tert-butyl (1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate as a light brown oily substance.

reactant | (2-oxo-1,8-naphthyridin-1(2H)-yl)acetaldehyde | 0.29 g | O=C1N(C2=NC=CC=C2C=C1)CC=O | C10H8N2O2
reactant | tert-butyl(piperidin-4-yl)carbamate | 0.30 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | acetic acid | 87 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.48 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl (1-(2-(2-oxo-1,8-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 0.27 g | O=C1N(C2=NC=CC=C2C=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O | C20H28N4O3
